US20010006969A1
2-Chloro-7-methyl-4-(2-methyl-2-propenylamino)thieno[3,2-d] pyrimidine
In DMF, 700 mg (3.4 mol) of 2,4-dichloro-7-methylthieno[ 3,2-d]pyrimidine was dissolved, and 759 mg (7.5 mmol) of triethylamine was added thereto, followed by adding 404 mg (3.8 mmol) of 2-methyl-2-propenylamine thereto, under ice cooling. The reaction solution was stirred at 0°C. for 1 hour and allowed to resume room temperature, followed by stirring for further 1 hour. After completion of the reaction, ice water was added to the reaction mixture, followed by extraction with ethyl acetate (50 ml×3). After the organic layer was washed successively with 1N hydrochloric acid, water and brine and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by a silica gel chromatography (eluent: ethyl acetate-hexane=¼) to give 687 mg (yield: 79.3%) of the title compound.

reactant | 2,4-dichloro-7-methylthieno[ 3,2-d]pyrimidine | 3.4 mol, 700 mg | ClC=1N=C(C2=C(N1)C(=CS2)C)Cl | C7H4Cl2N2S
reactant | triethylamine | 7.5 mmol, 759 mg | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-2-propenylamine | 3.8 mmol, 404 mg | CC(CN)=C | C4H9N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Chloro-7-methyl-4-(2-methyl-2-propenylamino)thieno[3,2-d] pyrimidine | 687 mg, yield: 79.3% | ClC=1N=C(C2=C(N1)C(=CS2)C)NCC(=C)C | C11H12ClN3S
